US05441971
To a solution of 5-hydroxymethyl-2-[2-(4-nitrophenoxy)ethyl]pyridine (9.4 g) in chloroform (100 ml) was added thionyl chloride (7.0 g) and the mixture was stirred under reflux for 30 minutes. After cooling, the reaction mixture was washed with saturated aqueous solution of sodium bicarbonate and then water, dried over magnesium sulfate and concentrated under reduced pressure to obtain 5-chloromethyl-2-[2-(4-nitrophenoxy)ethyl]pyridine (9.7 g, yield: 85%). The compound was recrystallized from ethyl acetate-hexane to obtain colorless needles, m.p. 77°-78° C.

reactant | 5-hydroxymethyl-2-[2-(4-nitrophenoxy)ethyl]pyridine | 9.4 g | OCC=1C=CC(=NC1)CCOC1=CC=C(C=C1)[N+](=O)[O-] | C14H14N2O4
reactant | thionyl chloride | 7.0 g | S(=O)(Cl)Cl | Cl2OS
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | 5-chloromethyl-2-[2-(4-nitrophenoxy)ethyl]pyridine | 9.7 g, yield: 85% | ClCC=1C=CC(=NC1)CCOC1=CC=C(C=C1)[N+](=O)[O-] | C14H13ClN2O3
